US04851387
98 mg of 3-[(4S,5S)-3-benzyloxycarbonyl-4-isobutyl-2,2-dimethyloxazolidin-5-yl]-2-[2-(2-tetrahydropyranyloxy)ethyl]-2-propenoic acid was dissolved in 0.4 ml of dry dichloromethane, and 21 μl of 4-picolylamine, 30 mg of 1-hydroxybenzotriazole and 45 mg of N,N'-dicyclohexylcarbodiimide were added thereto at 0° C. under stirring. The mixture was stirred at 0° C. for 2 hours and then at room temperature overnight. Insolubles were filtered off, and 20 ml of ethyl acetate was added. The mixture was washed with a saturated sodium hydrogencarbonate aqueous solution. The ethyl acetate layer was dried over anhydrous sodium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (2 g of Kieselgel 60) by using chloroform/methanol (20/1) to obtain 121 mg of 3-[(4S,5S)-3-benzyloxycarbonyl-4-isobutyl-2,2-dimethyloxazolidin-5-yl]-2-[2-(2-tetrahydropyranyloxy)ethyl]-2-propenoic acid 4-picolylamide as a colorless oily substance.

reactant | 3-[(4S,5S)-3-benzyloxycarbonyl-4-isobutyl-2,2-dimethyloxazolidin-5-yl]-2-[2-(2-tetrahydropyranyloxy)ethyl]-2-propenoic acid | 98 mg | C(C1=CC=CC=C1)OC(=O)N1C(O[C@H]([C@@H]1CC(C)C)C=C(C(=O)O)CCOC1OCCCC1)(C)C | C27H39NO7
reactant | 4-picolylamine | 21 μl | N1=CC=C(C=C1)CN | C6H8N2
reactant | 1-hydroxybenzotriazole | 30 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N,N'-dicyclohexylcarbodiimide | 45 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 0.4 ml | ClCCl | CH2Cl2
product | 3-[(4S,5S)-3-benzyloxycarbonyl-4-isobutyl-2,2-dimethyloxazolidin-5-yl]-2-[2-(2-tetrahydropyranyloxy)ethyl]-2-propenoic acid 4-picolylamide | 121 mg | N1=CC=C(C=C1)CNC(C(=C[C@H]1[C@@H](N(C(O1)(C)C)C(=O)OCC1=CC=CC=C1)CC(C)C)CCOC1OCCCC1)=O | C33H45N3O6
